US06787543B2
A solution of 2-benzhydryloxirane (631 mg) in isopropyl alcohol (4 ml) was added portionwise to a stirred solution of 2-aminoethyl hydrogensulfate (2.12 g) in a mixture of 20% sodium hydroxide solution (3 ml) at 50° C. The whole was stirred at 100° C. for 6 hours and thereto 40% sodium hydroxide solution (6 ml) was added at 100° C. After being stirred for 18 hours at the same temperature, the mixture was partitioned between ethyl acetate and 2N sodium hydroxide. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (20:1) to give 2-benzhydrylmorpholine (102 mg) as a colorless powder.

reactant | 2-benzhydryloxirane | 631 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1OC1 | C15H14O
reactant | 2-aminoethyl hydrogensulfate | 2.12 g | S(=O)(=O)(O)OCCN | C2H7NO4S
solvent | isopropyl alcohol | 4 ml | C(C)(C)O | C3H8O
solvent | sodium hydroxide | 3 ml | [OH-].[Na+]
solvent | sodium hydroxide | 6 ml | [OH-].[Na+]
product | 2-benzhydrylmorpholine | 102 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCCO1 | C17H19NO
